US05965591
To a solution of 3-(2-(N-t-butoxycarbonylamino)ethoxy)-1,2-benzisoxazole (0.55 g) in tetrahydrofuran (30 ml) was added butyl lithium (3.0 ml, 1.6M hexane solution) dropwise with stirring at -70° C. under nitrogen atmosphere, and the mixture was then stirred at the same temperature for 15 minutes. Gaseous carbon dioxide was introduced to the reaction mixture over 10 minutes and the temperature was raised to 0° C. The reaction mixture was poured into ice water (40 ml) and washed with diethylether (twice each with 40 ml). The aqueous layer was separated, after pH was adjusted to 4 with potassium dihydrogen phosphate, then extracted with ethyl acetate (twice each with 40 ml). The combined extracts were dried over anhydous magnesium sulphate, filtered and the solvent was evaporated under reduced pressure, to give 3-(2-(N-t-butoxycarbonylamino)ethoxy)-4-carboxy-1,2-benzisoxazole and 3-(2-(N-t-butoxycarbonylamino)ethoxy)-7-carboxyl-1,2-benzisoxazole as a colorless oily mixture (0.48 g).

reactant | 3-(2-(N-t-butoxycarbonylamino)ethoxy)-1,2-benzisoxazole | 0.55 g | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C=CC=C2 | C14H18N2O4
reactant | butyl lithium | 1.6M, 3.0 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(2-(N-t-butoxycarbonylamino)ethoxy)-4-carboxy-1,2-benzisoxazole | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C(=CC=C2)C(=O)O | C15H18N2O6
